US08809353B2
2-(4-Chloro-7-methylquinazolin-2-yl)phenol
Boron tribromide in dichloromethane (1 M, 900 mL, 900 mmol) was added drop wise to a cooled (−30-−40° C.) solution of 4-chloro-2-(2-methoxyphenyl)-7-methylquinazoline (93.2 g, 328 mmol) in dichloromethane (2 L) under nitrogen atmosphere. The resulting mixture was left warming to room temperature in about four hours and was slowly poured in 4 L sat. aq. NaHCO3. Stirring was continued until no more CO2 was produced. The layers were separated and the organic layer was dried over sodium sulfate, filtered, and evaporated to dryness under reduced pressure, yield: 90 g. The residue was filtered over a short plug of silica with dichloromethane as the eluent. Yield: 57.9 g (65%) of 2-(4-chloro-7-methylquinazolin-2-yl)phenol (1H-NMR, LC-MS: >90% purity). It was found that the only impurity still present was the corresponding bromo quinazoline (LC-MS, M+found=271 [M+1]; 315, 317 [M-Cl+Br], Br-isotope patterns present).

reactant | Boron tribromide | B(Br)(Br)Br | BBr3
reactant | 4-chloro-2-(2-methoxyphenyl)-7-methylquinazoline | 328 mmol, 93.2 g | ClC1=NC(=NC2=CC(=CC=C12)C)C1=C(C=CC=C1)OC | C16H13ClN2O
reactant | CO2 | C(=O)=O | CO2
solvent | dichloromethane | 2 L | ClCCl | CH2Cl2
solvent | NaHCO3 | 4 L | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 900 mmol, 1 M, 900 mL | ClCCl | CH2Cl2
product | 2-(4-Chloro-7-methylquinazolin-2-yl)phenol | ClC1=NC(=NC2=CC(=CC=C12)C)C1=C(C=CC=C1)O | C15H11ClN2O
